US07371777B2
Methyl 2-[(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)(hydroxy)methyl]tetrahydro-2-furancarboxylate
A solution of 2.60 g of methyl tetrahydro-2-furancarboxylate in 10 ml of tetrahydrofuran was added dropwise to 20 ml of sodium bis(trimethyldisilylamide) (1 M solution in tetrahydrofuran) cooled to −75° C. under an atmosphere of nitrogen gas, and the reaction mixture was stirred for 30 minutes. A solution of 2.65 g of t-butyl N-(5-formyl-2-methoxybenzyl)carbamate in 20 ml of tetrahydrofuran was added dropwise, and the mixture was stirred further for 1 hour. 200 ml of saturated aqueous ammonium chloride was added, and the mixture was extracted with 200 ml of ethyl acetate. The organic layer washed with 100 ml of brine, dried over magnesium sulfate and then concentrated. The residue was purified by silica gel column chromatography, to give 1.934 g of the title compound as a colorless powder.

reactant | methyl tetrahydro-2-furancarboxylate | 2.60 g | O1C(CCC1)C(=O)OC | C6H10O3
reactant | sodium bis(trimethyldisilylamide) | 1 M, 20 ml | C[Si]([N-][SiH3])(C)C.C[Si]([N-][SiH3])(C)C.[Na+].[Na+]
reactant | t-butyl N-(5-formyl-2-methoxybenzyl)carbamate | 2.65 g | C(=O)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H19NO4
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl 2-[(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)(hydroxy)methyl]tetrahydro-2-furancarboxylate | 1.934 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OC)C(C1(OCCC1)C(=O)OC)O | C20H29NO7
